US03994961
To a flask equipped with a stirrer, condenser and gas inlet tube maintained under a nitrogen atmosphere there is added at room temperature 16.3 g (0.05 mole) of 2-(β-[2-dimethylaminoethyl]-β-hydroxyphenethyl)-N-methylbenzamide and 170 ml of o-dichloro benzene. Stirring is initiated and the mixture is heated at reflux for 18 hours. The excess o-dichlorobenzene is then removed by distillation in vacuo and the resulting oil is crystallized from ether to give 3-[2-dimethylaminoethyl]-3,4-dihydro-3-phenylisocoumarin; m.p. 95.0°-95.5° C.

reactant | 2-(β-[2-dimethylaminoethyl]-β-hydroxyphenethyl)-N-methylbenzamide | 0.05 mole, 16.3 g | CN(CCC(CC1=C(C(=O)NC)C=CC=C1)(C1=CC=CC=C1)O)C | C20H26N2O2
solvent | o-dichloro benzene | 170 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-[2-dimethylaminoethyl]-3,4-dihydro-3-phenylisocoumarin | CN(CCC1(OC(=O)C2=CC=CC=C2C1)C1=CC=CC=C1)C | C19H21NO2
